US04219559
To a stirred and cooled (below 5° C.) mixture of 3.3 parts of N-methyl-N-[1-(2-phenylethyl)-4-piperidinyl]-1H-benzimidazol-2-amine, 100 parts of dimethylsulfoxide and 90 parts of benzene are added 0.5 parts of sodium hydride dispersion 50%. After stirring for 30 minutes, 1.5 parts of 1-(chloromethyl)-4-fluorobenzene are added and stirring is continued overnight while the mixture is allowed to reach room temperature. The reaction mixture is poured onto water and the product is extracted with methylbenzene. The extract is dried, filtered and evaporated. The residue is converted into the hydrochloride salt in 2-propanone. The salt is filtered off and crystallized from 2-propanol, yielding 2.8 parts (54.4%) of 1-[(4-fluorophenyl)methyl]-N-methyl-N-[1-(2-phenylethyl)-4-piperidinyl]-1H-benzimidazol-2-amine dihydrochloride; mp. 246.6° C.

reactant | N-methyl-N-[1-(2-phenylethyl)-4-piperidinyl]-1H-benzimidazol-2-amine | CN(C1=NC2=C(N1)C=CC=C2)C2CCN(CC2)CCC2=CC=CC=C2 | C21H26N4
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | sodium hydride | [H-].[Na+]
reactant | 1-(chloromethyl)-4-fluorobenzene | ClCC1=CC=C(C=C1)F | C7H6ClF
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-[(4-fluorophenyl)methyl]-N-methyl-N-[1-(2-phenylethyl)-4-piperidinyl]-1H-benzimidazol-2-amine dihydrochloride | 54.4% | Cl.Cl.FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)N(C2CCN(CC2)CCC2=CC=CC=C2)C | InChI=1S/C28H31FN4.2ClH/c1-31(25-16-19-32(20-17-25)18-15-22-7-3-2-4-8-22)28-30-26-9-5-6-10-27(26)33(28)21-23-11-13-24(29)14-12-23;;/h2-14,25H,15-21H2,1H3;2*1H
